US04000301
Preparation of 4-[2-(Heptyloxy)ethoxy]-1-methyl-3,5-diphenylpyrazole
Sodium hydride (0.89 g, 57%, 0.02 mole) is added to a solution of 2-[(1-methyl-3,5-diphenyl-4-pyrazolyl)oxy]-ethanol (5.9 g, 0.02 mole) and dry DMF (50 ml). The reaction mixture is stirred and heated to 80°-90° C. The stirred mixture is allowed to cool. This mixture is added to a solution of 1-bromoheptane (9 g, 0.05 mole) and dry DMF (75 ml). After heating at 80°-90° C for 4 hours, the stirred reaction mixture is poured into water.

reactant | Sodium hydride | 0.02 mole, 0.89 g | [H-].[Na+]
reactant | 2-[(1-methyl-3,5-diphenyl-4-pyrazolyl)oxy]-ethanol | 0.02 mole, 5.9 g | CN1N=C(C(=C1C1=CC=CC=C1)OCCO)C1=CC=CC=C1 | C18H18N2O2
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 1-bromoheptane | 0.05 mole, 9 g | BrCCCCCCC | C7H15Br
reactant | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[2-(Heptyloxy)ethoxy]-1-methyl-3,5-diphenylpyrazole | C(CCCCCC)OCCOC=1C(=NN(C1C1=CC=CC=C1)C)C1=CC=CC=C1 | C25H32N2O2
